US07696229B2
3. Synthesis of N′-(chloro(2-chlorophenyl)methylene)-4-methylbenzenesulfonohydrazide
Into a 500 mL round bottom flask was placed 2-chloro-N′-tosylbenzohydrazide (10 g, 30.79 mmol). To this was added SOCl2 (36.6 g, 307.56 mmol). The resulting solution was allowed to react, with stirring, for 1.5 hours while the temperature was maintained at 75° C. in a bath of oil. To the mixture was added 2-chloro-N′-tosylbenzohydrazide (10 g, 30.79 mmol), while cooling to a temperature of 60° C. The resulting solution was allowed to react, with stirring, for an additional 2 hours while the temperature was maintained at 75° C. in a bath of oil. The reaction mixture was then quenched by the adding 100 mL of n-hexane. A filtration was performed. The filter cake was washed with n-hexane. The solid was dried in an oven under reduced pressure. This resulted in 19.6 g (74%) of N′-(chloro(2-chlorophenyl)methylene)-4-methylbenzenesulfonohydrazide as a white solid.

reactant | 2-chloro-N′-tosylbenzohydrazide | 30.79 mmol, 10 g | ClC1=C(C(=O)NNS(=O)(=O)C2=CC=C(C)C=C2)C=CC=C1 | C14H13ClN2O3S
reactant | SOCl2 | 307.56 mmol, 36.6 g | O=S(Cl)Cl | Cl2OS
reactant | 2-chloro-N′-tosylbenzohydrazide | 30.79 mmol, 10 g | ClC1=C(C(=O)NNS(=O)(=O)C2=CC=C(C)C=C2)C=CC=C1 | C14H13ClN2O3S
product | N′-(chloro(2-chlorophenyl)methylene)-4-methylbenzenesulfonohydrazide | ClC(=NNS(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=CC=C1)Cl | C14H12Cl2N2O2S
